US06114470
Synthesis of N-methyl-N-(2-hydroxypropyl)-p-toluidine (2HPMT)
N-methyl-p-toluidine, 29.3 g, and methanol, 50 g, were placed in a reactor. Propylene oxide, 25.4 g, was slowly added to the reactor over two hours. Afterwards, the reactor was heated under reflux for 6 hours. The low boilers were removed by distillation. Then, the mixture was vacuum distilled to give 2HPMT. The boiling point is 92° C. at 5 mm Hg.

reactant | N-methyl-p-toluidine | CNC1=CC=C(C=C1)C | C8H11N
reactant | Propylene oxide | C1C(C)O1 | C3H6O
solvent | methanol | CO | CH4O
product | N-methyl-N-(2-hydroxypropyl)-p-toluidine | CN(C1=CC=C(C=C1)C)CC(C)O | C11H17NO
